US06759557B2
2-Hydroxy-11-cycloeicosenone of Synthesis Example 7 was replaced by 2-hydroxy-13-cyclotetracosenone (0.70 g, 1.92 mmol). The latter was subjected to a hydrogenation reaction and subsequent treatment under the same conditions as in Synthesis Example 7, to give 0.70 g of 2-hydroxycyclotetracosanone (quantitative yield).

reactant | 2-Hydroxy-11-cycloeicosenone | OC1C(CCCCCCCCC=CCCCCCCCC1)=O | C20H36O2
reactant | 2-hydroxy-13-cyclotetracosenone | 1.92 mmol, 0.70 g | OC1C(CCCCCCCCCCC=CCCCCCCCCCC1)=O | C24H44O2
product | 2-hydroxycyclotetracosanone | 0.70 g, quantitative yield | OC1C(CCCCCCCCCCCCCCCCCCCCCC1)=O | C24H46O2
